US06342508B1
N-Hydroxy-2-(4-methoxy-benzenesulfinyl)-2-methyl-3-phenyl-propionamide
N-hydroxy-2-(4-methoxy-phenylsulfanyl)-2-methyl-3-phenyl-propionamide (400 mg, 1.26 mol) in Example 1) was dissolved in methanol (100 ml) and 30% H2O (10 ml) was added. The reaction mixture was stirred for 48 hours at room temperature at which time it was cooled to 0° C. and quenched with saturated Na2SO3 (20 ml) solution. The reaction mixture became cloudy. It was stirred for 4 hours before it was concentrated in a room temperature water bath, diluted with water, extracted with CHCl3 and washed with H2O. The organic layer was dried over MgSO4, filtered and concentrated. The title compound isolated by silica gel column chromatography, eluting with 75% ethylacetate:hexane. Low melting solid. Yield: 220 mg (52%); MS: 334.1 (M+H)+; 1H NMR (300 MHz, CDCl3): d 1.11 (s, 2H), 1.22 (s, 3H), 3.84 (s, 3H), 7.00-7.61 (m, 9H).

reactant | N-hydroxy-2-(4-methoxy-phenylsulfanyl)-2-methyl-3-phenyl-propionamide | 1.26 mol, 400 mg | ONC(C(CC1=CC=CC=C1)(C)SC1=CC=C(C=C1)OC)=O | C17H19NO3S
reactant | H2O | 10 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | N-Hydroxy-2-(4-methoxy-benzenesulfinyl)-2-methyl-3-phenyl-propionamide | ONC(C(CC1=CC=CC=C1)(C)S(=O)C1=CC=C(C=C1)OC)=O | C17H19NO4S
